US09145354B2
(3R)—N-(2-Aminoethvl)-3-{[(1R)-1-(3-benzoyl-4-chloro-2-fluorophenyl)propyl]-amino}butanamide
To (2-{(S)-3-[(R)-1-(3-benzoyl-4-chloro-2-fluoro-phenyl)-propylamino]-butyrylamino}-ethyl)-carbamic acid tert-butyl ester (13 mg, 0.025 mmol) residue was added hydrogen chloride in ethyl acetate (2N, 2 ml). The mixture was stood at room temperature for 20 minutes, diethyl ether was added to precipitate solids. These were isolated by filtration and dried in a vacuum oven to furnish the desired material as a white solid

reactant | (2-{(S)-3-[(R)-1-(3-benzoyl-4-chloro-2-fluoro-phenyl)-propylamino]-butyrylamino}-ethyl)-carbamic acid tert-butyl ester | 0.025 mmol, 13 mg | C(C)(C)(C)OC(NCCNC(C[C@H](C)N[C@H](CC)C1=C(C(=C(C=C1)Cl)C(C1=CC=CC=C1)=O)F)=O)=O | C27H35ClFN3O4
reactant | hydrogen chloride | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate | 2N, 2 ml | C(C)(=O)OCC | C4H8O2
product | (3R)—N-(2-Aminoethvl)-3-{[(1R)-1-(3-benzoyl-4-chloro-2-fluorophenyl)propyl]-amino}butanamide | NCCNC(C[C@@H](C)N[C@H](CC)C1=C(C(=C(C=C1)Cl)C(C1=CC=CC=C1)=O)F)=O | C22H27ClFN3O2
